US06951879B2
In analogy to example 3.1, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and 1-Piperazin-1-yl-ethanone were converted to yield 1-(4-{3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl}-piperazin-1-yl)-ethanone as colorless oil, MS: 474 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | 1-Piperazin-1-yl-ethanone | N1(CCNCC1)C(C)=O | C6H12N2O
product | 1-(4-{3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl}-piperazin-1-yl)-ethanone | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN2CCN(CC2)C(C)=O | C22H24BrN3O2S
